Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10],2.49235002179
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[H:9].[H:6],3.08680890108
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]=[C:2],0.8191645260609999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-5.00955410199
[H:17].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.56984318314
[H:5].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][H:5],-4.81057240356
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:12]([H:13])([H:14])[H:15],-0.7082724754
[C:1].[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-7.2640134812
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13],4.38841220331
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[O:7][O:8]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][O:8],-6.4745941056
[C:10]([H:11])[O:12][H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.53620835259
[H:1][C:2]([O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],1.06723822756
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@:6]1([H:7])[C:8]([H:9])[O:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-0.773077096059
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1],5.76841650132
[O:1][O:2][C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1].[O:2]=[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.5347889730100001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],2.00273238967
[H:17].[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.55134828971
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[C:8]([H:9])([H:10])[H:11],4.73399824879
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.607063449569999
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-5.10583569914
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.3130587984099975
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3],5.383359593220002
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2](=[C:3]([H:4])\[C:5]([H:6])=[C:8]\[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:7],1.38606477637
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.5850124113600002
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.5477949244
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12],-1.8578437134
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[O:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12]1,1.06480271
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]#[C:8][O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-3.51686630926
